US05159067
Synthesis of 3'-Azido-2',3'-Dideoxyuridine-5-O-Diphosphoglucose
To 150 milligrams of AzddU-triphosphate was added 400 milligrams of glucose-1-phosphate, 6 millimole of MgCl2, 0.70 millimole of Tris-HCl pH 7.6, bacterial UDPG-pyrophosphorylase and inorganic pyrophosphatase. After 4 hours at room temperature, the reaction was stopped with perchloric acid (7N). After 30 minutes in ice, samples were centrifuged and the supernatant was neutralized with base. After another 30 minutes in ice, samples were recentrifuged and AzddU-5'-diphosphoglucose was purified by column chromatography.

reactant | AzddU triphosphate | 150 milligrams | C1[C@@H]([C@H](O[C@H]1N2C=CC(=O)NC2=O)CO)N=[N+]=[N-].[O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-]
reactant | glucose-1-phosphate | 400 milligrams | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OP(=O)(O)O)O)O)O)O | C6H13O9P
reactant | MgCl2 | 6 millimole | [Mg+2].[Cl-].[Cl-]
reactant | Tris-HCl | 0.70 millimole, pH 7.6 | C(C(CO)(CO)N)O.Cl
reactant | UDPG | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
reactant | perchloric acid | 7N | Cl(=O)(=O)(=O)O | ClHO4
product | 3'-Azido-2',3'-Dideoxyuridine 5-O-Diphosphoglucose | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1.P(=O)(O)(OP(=O)(O)O)O[C@@H]([C@H]([C@@H]([C@H](C=O)O)O)O)CO | InChI=1S/C9H11N5O4.C6H14O12P2/c10-13-12-5-3-8(18-6(5)4-15)14-2-1-7(16)11-9(14)17;7-1-3(9)5(10)6(11)4(2-8)17-20(15,16)18-19(12,13)14/h1-2,5-6,8,15H,3-4H2,(H,11,16,17);1,3-6,8-11H,2H2,(H,15,16)(H2,12,13,14)/t5-,6+,8+;3-,4+,5+,6+/m00/s1
